US04673746
3-(2-fluorophenyl)-6-hydroxy-1,2-benzisoxazole (9.7 g) is dissolved in 80 ml of DMF and added to an ice-cooled suspension of NaH (1.4 g) in 50 ml of DMF. When hydrogen evolution stops, ethyl bromoacetate (7.5 g) in 20 ml of DMF is added and the reaction mixture is allowed to come to room temperature. After two hours 200 ml of H2O and 10 ml of 50% NaOH are added and the reaction warmed at 50° C. After an additional 30 minutes a product is collected after acidification and filtering. Recrystallization from toluene/CH3CN gives {[3-(2-fluorophenyl)-1,2-benzisoxazol-6-yl]oxy}acetic acid, mp 182°-184° C.

reactant | 3-(2-fluorophenyl)-6-hydroxy-1,2-benzisoxazole | 9.7 g | FC1=C(C=CC=C1)C1=NOC2=C1C=CC(=C2)O | C13H8FNO2
reactant | NaH | 1.4 g | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | ethyl bromoacetate | 7.5 g | BrCC(=O)OCC | C4H7BrO2
reactant | NaOH | 10 ml | [OH-].[Na+]
solvent | DMF | 80 ml | CN(C)C=O | C3H7NO
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | H2O | 200 ml | O | H2O
product | {[3-(2-fluorophenyl)-1,2-benzisoxazol-6-yl]oxy}acetic acid | FC1=C(C=CC=C1)C1=NOC2=C1C=CC(=C2)OCC(=O)O | C15H10FNO4
